US06225324B1
Di-tert-butyl dicarbonate (4.1 g, 18.7 mmol) was added to a stirred solution of hexahydro-4 H-azepin-4-one (2.8 g, 18.7 mmol) and NaHCO3 (1.6 g, 18.7 mmol) in water (70 ml) and CH2Cl2 (70 ml). The mixture was stirred for 20 hr. The organic layer was separated, dried over Na2SO4, and concentrated in vacuo to give 1-(tert-butyloxycarbonyl)-hexahydro-4 H-azepin-4-one as an amber oil (3.98 g, 100%).

reactant | Di-tert-butyl dicarbonate | 18.7 mmol, 4.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hexahydro-4 H-azepin-4-one | 18.7 mmol, 2.8 g | N1CCC(CCC1)=O | C6H11NO
reactant | NaHCO3 | 18.7 mmol, 1.6 g | C(=O)(O)[O-].[Na+]
solvent | water | 70 ml | O | H2O
solvent | CH2Cl2 | 70 ml | C(Cl)Cl | CH2Cl2
product | 1-(tert-butyloxycarbonyl)-hexahydro-4 H-azepin-4-one | 3.98 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CCC1)=O | C11H19NO3
